### PR TITLE
feat: Add Euler brick

### PR DESCRIPTION
**Pull request by Reklle**
I think the existence of perfect Euler brick is still an open question.
[The article](https://arxiv.org/pdf/2206.06160) seems wrong due to a mistake in the contradiction at the end.

### CODE REVIEW

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 1]
```diff
@@ -0,0 +1,59 @@
...
+  sorry
+
+/--
+Euler hyperbrick generalization for n-dimensional space.
+-/
+def IsEulerHyperBrick (n : ℕ) (edges : Fin n → ℕ+) : Prop :=
+  ∀ i j : Fin n, i < j → ∃ k : ℕ+, (edges i)^2 + (edges j)^2 = k^2
+
+/--
+Is there a Euler brick in 4 dimentions?
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/EulerBrick.lean]: Do you want to cite https://math.stackexchange.com/questions/2264401/euler-bricks-and-the-4th-dimension for this or do you have another reference?
```suggestion
Is there a Euler brick in 4 dimensions?
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 2]
```diff
@@ -0,0 +1,59 @@
...
+-/
+@[category research open, AMS 11]
+theorem four_dim_euler_brick_existence :
+    (∃ edges : Fin 4 → ℕ+, IsEulerHyperBrick 4 edges)  ↔ answer(sorry) := by
+  sorry
+
+/--
+Is there a Euler brick in $n>3$ dimentions?
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
Is there a Euler brick in $n>3$ dimensions?
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 3]
```diff
@@ -0,0 +1,59 @@
...
+-/
+def IsEulerBrick (a b c : ℕ+) : Prop :=
+  ∃ (n m k : ℕ+), a^2 + b^2 = n^2 ∧ a^2 + c^2 = m^2 ∧ b^2 + c^2 = k^2
+
+/--
+Is there a perfect Euler brick with integer diagonal?
+-/
+@[category research open, AMS 11]
+theorem perfect_euler_brick_existence :
+    (∃ (a b c d : ℕ+), IsEulerBrick a b c ∧ a^2 + b^2 + c^2 = d^2)  ↔ answer(sorry) := by
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/EulerBrick.lean]: (and below)
```suggestion
    (∃ (a b c d : ℕ+), IsEulerBrick a b c ∧ a^2 + b^2 + c^2 = d^2) ↔ answer(sorry) := by
```

File: FormalConjectures/Wikipedia/EulerBrick.lean (hunk 1 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/EulerBrick.lean]: There is also a website http://www.christianboyer.com/eulerbricks/

Comment (alreadydone) [reply FormalConjectures/Wikipedia/EulerBrick.lean]: Very nice, let's add it too.

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 4]
```diff
@@ -0,0 +1,61 @@
...
+-/
+def IsEulerBrick (a b c : ℕ+) : Prop :=
+  ∃ (n m k : ℕ+), a^2 + b^2 = n^2 ∧ a^2 + c^2 = m^2 ∧ b^2 + c^2 = k^2
+
+/--
+Is there a perfect Euler brick with integer diagonal?
+-/
+@[category research open, AMS 11]
+theorem perfect_euler_brick_existence :
+    (∃ (a b c d : ℕ+), IsEulerBrick a b c ∧ a^2 + b^2 + c^2 = d^2) ↔ answer(sorry) := by
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/EulerBrick.lean]: if you like
```suggestion
  ∃ n m k : ℕ+, a^2 + b^2 = n^2 ∧ a^2 + c^2 = m^2 ∧ b^2 + c^2 = k^2

/--
Is there a perfect Euler brick with integer diagonal?
-/
@[category research open, AMS 11]
theorem perfect_euler_brick_existence :
    (∃ a b c d : ℕ+, IsEulerBrick a b c ∧ a^2 + b^2 + c^2 = d^2) ↔ answer(sorry) := by
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 5]
```diff
@@ -0,0 +1,61 @@
...
+  sorry
+
+/--
+Euler hyperbrick generalization for n-dimensional space.
+-/
+def IsEulerHyperBrick (n : ℕ) (edges : Fin n → ℕ+) : Prop :=
+  ∀ i j : Fin n, i < j → ∃ k : ℕ+, (edges i)^2 + (edges j)^2 = k^2
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/EulerBrick.lean]: In mathlib this would probably be written as `Pairwise fun i j ↦ IsSquare ((edges i)^2 + (edges j)^2)`.

I just remembered there's [IsSquare](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Even.html#IsSquare) in mathlib. Can you switch to IsSquare elsewhere? Thanks.

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 6]
```diff
@@ -0,0 +1,61 @@
...
+/-!
+# Open questions on existence of some Euler brick
+
+*References:*
+- [Wikipedia](https://en.wikipedia.org/wiki/Euler_brick)
+- [stackexchange](https://math.stackexchange.com/questions/2264401/euler-bricks-and-the-4th-dimension)
+-/
+
+/--
+**Euler brick** is a rectangular cuboid whose edges and face diagonals all have integer lengths.
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
An **Euler brick** is a rectangular cuboid whose edges and face diagonals all have integer lengths.
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 7]
```diff
@@ -0,0 +1,61 @@
...
+-/
+def IsEulerBrick (a b c : ℕ+) : Prop :=
+  ∃ n m k : ℕ+, a^2 + b^2 = n^2 ∧ a^2 + c^2 = m^2 ∧ b^2 + c^2 = k^2
+
+/--
+Is there a perfect Euler brick with integer diagonal?
+-/
+@[category research open, AMS 11]
+theorem perfect_euler_brick_existence :
+    (∃ a b c d : ℕ+, IsEulerBrick a b c ∧ a^2 + b^2 + c^2 = d^2) ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/EulerBrick.lean]: According to the Wikipedia these are called perfect cuboids, I think it would be nice to add that as a separate definition!

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 8]
```diff
@@ -0,0 +1,61 @@
...
+    (∃ edges : Fin 4 → ℕ+, IsEulerHyperBrick 4 edges) ↔ answer(sorry) := by
+  sorry
+
+/--
+Is there a Euler brick in $n>3$ dimensions?
+-/
+@[category research open, AMS 11]
+theorem n_dim_euler_brick_existence (n : ℕ) (hn : 3 < n) :
+    (∃ edges : Fin n → ℕ+, IsEulerHyperBrick n edges) ↔ answer(sorry) := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
theorem n_dim_euler_brick_existence :
    (∀ n > 3, ∃ edges : Fin n → ℕ+, IsEulerHyperBrick n edges) ↔ answer(sorry) := by
  sorry
```
Here I think the `n` needs to be quantified over inside the parenthesis.

**Review by callesonne — COMMENTED** [review]
Thanks for the contribution!

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 9]
```diff
@@ -0,0 +1,67 @@
...
+-/
+def IsEulerHyperBrick (n : ℕ) (edges : Fin n → ℕ+) : Prop :=
+  Pairwise fun i j ↦ IsSquare ((edges i)^2 + (edges j)^2)
+
+/--
+Is there a perfect Euler brick?
+-/
+@[category research open, AMS 11]
+theorem perfect_euler_brick_existence :
+    ∃ a b c : ℕ+, IsPerfectCuboid a b c  ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
    (∃ a b c : ℕ+, IsPerfectCuboid a b c) ↔ answer(sorry) := by
```
Parenthesis are important here! :)

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 10]
```diff
@@ -0,0 +1,67 @@
...
+  sorry
+
+/--
+Is there an Euler brick in 4-dimensional space?
+-/
+@[category research open, AMS 11]
+theorem four_dim_euler_brick_existence :
+    ∃ edges : Fin 4 → ℕ+, IsEulerHyperBrick 4 edges ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
    (∃ edges : Fin 4 → ℕ+, IsEulerHyperBrick 4 edges) ↔ answer(sorry) := by
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 11]
```diff
@@ -0,0 +1,67 @@
...
+  sorry
+
+/--
+Is there an Euler brick in n-dimensional space for any n > 3?
+-/
+@[category research open, AMS 11]
+theorem n_dim_euler_brick_existence :
+    ∀ n > 3, ∃ edges : Fin n → ℕ+, IsEulerHyperBrick n edges ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
    (∀ n > 3, ∃ edges : Fin n → ℕ+, IsEulerHyperBrick n edges) ↔ answer(sorry) := by
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 12]
```diff
@@ -0,0 +1,67 @@
...
+A **perfect cuboid** is an Euler brick with an integer space diagonal.
+-/
+def IsPerfectCuboid (a b c : ℕ+) : Prop :=
+  IsEulerBrick a b c ∧ IsSquare (a^2 + b^2 + c^2)
+
+/--
+Generalization of an Euler brick to n-dimensional space.
+-/
+def IsEulerHyperBrick (n : ℕ) (edges : Fin n → ℕ+) : Prop :=
+  Pairwise fun i j ↦ IsSquare ((edges i)^2 + (edges j)^2)
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
def IsEulerHyperBrick (n : ℕ) (sides : Fin n → ℕ+) : Prop :=
  Pairwise fun i j ↦ IsSquare ((sides i)^2 + (sides j)^2)
```
nitpick: I think its more accurate to call this sides (so please change the below occurences as well)

**Review by callesonne — APPROVED** [review]
Modulo these comments, LGTM!

File: FormalConjectures/Wikipedia/EulerBrick.lean (hunk 1 above)
Comment (abibek52) [reply FormalConjectures/Wikipedia/EulerBrick.lean]: Apologies for jumping in here, but I would like to clarify a point regarding [The article](https://arxiv.org/pdf/2206.06160) shared by @Reklle. Based on the content of the paper, it does not appear to be incorrect. The article notes that 𝑔, the internal diagonal, must be odd for a perfect cuboid to exist. However, when 𝑛>1, for the equation 10, the right-hand side becomes even—making it impossible for the left-hand side (i.e.,𝑔) to remain odd. Please feel free to correct me if I have misunderstood something.
